US07989457B2
Step A. 4-(2-Methoxy-1-methyl-vinyl)-3-methyl-4′-trifluoromethyl-biphenyl
To a an ambient temperature suspension of potassium tert-butoxide (2.42 g, 21.56 mmol) in THF (70 mL) is added (methoxymethyl)triphenylphosphonium chloride (7.39 g, 21.56 mmol) and is stirred at room temperature for 30 min. 1-(3-methyl-4′-trifluoromethyl-biphenyl-4-yl)-ethanone (2.0 g, 7.19 mmol) is added and the reaction mixture continues to stir at room temperature. After 2 h TLC (20% EtOAc/hexane) indicates complete consumption of starting material. The reaction is quenched with saturated aqueous NH4Cl and concentrated. The residue is partitioned between EtOAc (100 mL) and water (30 mL). The aqueous layer is extracted with EtOAc (100 mL) and The combined organic layers are washed with brine, dried (MgSO4), filtered, concentrated and chromatographed (120 g SiO2, 10% EtOAc/Hexanes) to yield the title compound (2.22 g, quant.).

reactant | potassium tert-butoxide | 21.56 mmol, 2.42 g | CC(C)([O-])C.[K+]
reactant | (methoxymethyl)triphenylphosphonium chloride | 21.56 mmol, 7.39 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 1-(3-methyl-4′-trifluoromethyl-biphenyl-4-yl)-ethanone | 7.19 mmol, 2.0 g | CC=1C=C(C=CC1C(C)=O)C1=CC=C(C=C1)C(F)(F)F | C16H13F3O
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 4-(2-Methoxy-1-methyl-vinyl)-3-methyl-4′-trifluoromethyl-biphenyl | 2.22 g | COC=C(C)C1=C(C=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C | C18H17F3O
